US04234588
Cystamine is reacted with 2-nitroamino-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone by heating in ethanol to give 2-[5-(3-pyridylmethyl)-4-oxo-2-pyrimidylamino]ethyl disulphide which is reduced with dithiothreitol to give 2-(2-mercaptoethylamino)-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone which is reacted with 5-dimethylaminomethyl-2-furylmethanol in cold aqueous hydrochloric acid to give 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone.

reactant | Cystamine | NCCSSCCN | C4H12N2S2
reactant | 2-nitroamino-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C11H11N5O3
solvent | ethanol | C(C)O | C2H6O
product | 2-[5-(3-pyridylmethyl)-4-oxo-2-pyrimidylamino]ethyl disulphide | N1=CC(=CC=C1)CC=1C(NC(=NC1)NCCSSCCNC1=NC=C(C(N1)=O)CC=1C=NC=CC1)=O | C24H26N8O2S2
